US07183302B2
5-(4-Amino-phenyl)-2-isopropylimino-3-pyridin-2-ylmethyl-thiazolidin-4-one
A solution of 2-isopropylimino-5-(4-nitrophenyl)-3-pyridin-2-ylmethyl-thiazolidin-4-one (4.6 g, 12.4 mmol) in dry methanol (50 ml) was subjected to hydrogenation at slightly above atmospheric pressure (balloon) room temperature for 20 h using Pearlman's catalyst (1.0 g). After 20 h at room temperature, additional catalyst (0.5 g) was added and the suspension was hydrogenated for an additional 24 h. When the reaction was judged complete by LC analysis, the mixture was suction-filtered through Celite and concentrated in vacuo to afford the title compound as a yellowish-tan foam which was used without further purification: 1H NMR (400 MHz, CDCl3) δ 8.50 (d, J=4.2 Hz, 1H), 7.61–7.57 (m, 1H), 7.21–7.16 (m, 1H), 7.18 (d, J=8.3 Hz, 2H), 7.14–7.12 (m, 1H), 6.63 (d, J=8.6 Hz, 2H), 5.15 (s, 1H), 5.08 (s, 2H), 3.85–3.60 (br m, 2H), 3.50–3.42 (m, 1H), 1.09–1.06 (m, 6H); MS (ESI) m/z=341.2 (MH+); HPLC rt 1.07 min. (3 min. grad.); Purity (83.5%).

reactant | 2-isopropylimino-5-(4-nitrophenyl)-3-pyridin-2-ylmethyl-thiazolidin-4-one | 12.4 mmol, 4.6 g | C(C)(C)N=C1SC(C(N1CC1=NC=CC=C1)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C18H18N4O3S
solvent | methanol | 50 ml | CO | CH4O
catalyst | Pearlman's catalyst | 1.0 g | [OH-].[OH-].[Pd+2]
product | 5-(4-Amino-phenyl)-2-isopropylimino-3-pyridin-2-ylmethyl-thiazolidin-4-one | NC1=CC=C(C=C1)C1C(N(C(S1)=NC(C)C)CC1=NC=CC=C1)=O | C18H20N4OS
